US07601714B2
To a solution of the above 5-chloro-2,4-dichloropyrimidine (73 mg, 0.4 mmol) in EtOH (2 mL) were added tert-butyl trans-4-aminomethylcyclohexylcarbamate (100 mg, 0.44 mmol) and DIPEA (77 μL, 0.44 mmol). The reaction mixture was heated at 40° C. for 1 h. The reaction mixture was concentrated in vacuo and the resulting residue was diluted with EtOAc. The solution was washed with brine. The aqueous layer was re-extracted with EtOAc (×2). The combined organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo to yield 148 mg (99%) of {4-[(2,5-dichloro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester.

reactant | 5-chloro-2,4-dichloropyrimidine | 0.4 mmol, 73 mg | ClC=1C(=NC(=NC1)Cl)Cl | C4HCl3N2
reactant | tert-butyl trans-4-aminomethylcyclohexylcarbamate | 0.44 mmol, 100 mg | NC[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C12H24N2O2
reactant | DIPEA | 0.44 mmol, 77 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 2 mL | CCO | C2H6O
product | {4-[(2,5-dichloro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester | 148 mg, 99% | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1Cl)Cl)=O | C16H24Cl2N4O2
